US06921821B2
6-Chloro-4-{1-[5-(4-fluoro-phenyl)-5-oxo-pentyl]-piperidin-4-ylamino}-chromen-2-one (III-21)
According to Procedure B above, 6-chloro-4-(piperidin-4-ylamino)-chromen-2-one (0.025 g, 0.05 mmol) and 1-(4-fluorophenyl)-5-chloro-1-oxopentane (0.024 g, 0.11 mmol) were allowed to react to give the title compound (0.0078 g, 27.4%, mono-TFA salt) as a off-white solid. 1H NMR (300 MHz, MeOH) δ ppm 8.05-8.15 (m, 3H), 7.62 (dd, J=3, 9, 1H), 7.35 (d, J=9, 1H), 7.20-7.28 (m, 2H), 5.47 (s, 1H), 3.82-3.92 (m, 1H), 3.67-3.75 (m, 2H), 3.11-3.25 (m, 5H), 2.32-2.43 (m, 2H), 2.15-2.25 (m, 1H), 1.87-2.03 (m, 2H), 1.79-1.87 (m, 4H); MS (ESI+Q1MS) m/z 457 [M]+

reactant | 6-chloro-4-(piperidin-4-ylamino)-chromen-2-one | 0.05 mmol, 0.025 g | ClC=1C=C2C(=CC(OC2=CC1)=O)NC1CCNCC1 | C14H15ClN2O2
reactant | 1-(4-fluorophenyl)-5-chloro-1-oxopentane | 0.11 mmol, 0.024 g | FC1=CC=C(C=C1)C(CCCCCl)=O | C11H12ClFO
product | 6-Chloro-4-{1-[5-(4-fluoro-phenyl)-5-oxo-pentyl]-piperidin-4-ylamino}-chromen-2-one | 0.0078 g, 27.4% | ClC=1C=C2C(=CC(OC2=CC1)=O)NC1CCN(CC1)CCCCC(=O)C1=CC=C(C=C1)F | C25H26ClFN2O3
